US06635640B2
[2,4-Dimethyl-5-(2-oxo-4-pyridin-4-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrol-3-yl]-acetic Acid
4-Pyridin-4-yl-1,3-dihydroindol-2-one was condensed with (5-formyl-2,4-dimethyl-1H-pyrrol-3-yl)-acetic acid to give the title compound.

reactant | 4-Pyridin-4-yl-1,3-dihydroindol-2-one | N1=CC=C(C=C1)C1=C2CC(NC2=CC=C1)=O | C13H10N2O
reactant | (5-formyl-2,4-dimethyl-1H-pyrrol-3-yl)-acetic acid | C(=O)C1=C(C(=C(N1)C)CC(=O)O)C | C9H11NO3
product | [2,4-Dimethyl-5-(2-oxo-4-pyridin-4-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrol-3-yl]-acetic Acid | CC=1NC(=C(C1CC(=O)O)C)C=C1C(NC2=CC=CC(=C12)C1=CC=NC=C1)=O | C22H19N3O3
